US08106221B2
Step 6. tert-butyl (S)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate
To a solution of benzyl (5)-1-(N-methyl-tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate (20 g, 49.2 mmol) in MeOH (400 mL) was added Pd(OH)2 (2 g). The reaction bottle was degassed and filled into H2. Upon completion of the reaction, the mixture was filtered through Celite, dried over Na2SO4, and concentrated to give the product (12 g). 1H NMR (CD3OD) δ 1.0-1.2 (m, 3H), 1.4-1.5 (m, 9H), 1.6-1.7 (m, 2H), 1.7-1.9 (m, 2H), 2.8-2.9 (s, 3H), 2.9-3.1 (m, 4H), 3.3-3.4 (m, 1H), 3.8-3.9 (m, 2H).

reactant | benzyl (5)-1-(N-methyl-tert-butoxycarbonylamino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 49.2 mmol, 20 g | CN(C[C@H](C[C@@H]1COCCC1)NC(OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C22H34N2O5
solvent | MeOH | 400 mL | CO | CH4O
catalyst | Pd(OH)2 | 2 g | [OH-].[OH-].[Pd+2]
product | tert-butyl (S)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate | 12 g | N[C@H](CN(C(OC(C)(C)C)=O)C)C[C@@H]1COCCC1 | C14H28N2O3
